US08097719B2
Preparation of Protected Meropenem
4-nitrobenzyl (4R,5R,6S)-3-[(diphenoxyphosphoryl)oxy]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (10 gm) Formula-A and 4-nitrobenzyl (2S,4S)-2-[(dimethylamino)carbonyl]-4- mercaptopyrrolidine-1-carboxylate (6.122 gm) Formula-B was dissolved in 60 ml acetonitrile and 3 ml dimethyl acetamide at ambient temperature. The solution was stirred under same condition for 10 minutes to get clear solution and cool to a temperature of minus −10° C. Di-isopropylethyl amine (9.15 ml) was added dropwise under stirring conditions to the above solution at −10° C. and continued the reaction for 90 minutes at the same reaction parameters. After completion of the reaction, 150 ml ethyl acetate was added in said reaction mass, the ethyl acetate layer was extracted by acidic water till to get pH 6-7 of the extracted acidic water, then dried over sodium sulphate and distilled off up to free solid. Next a 1:1 mixture of 50 ml methyl ethyl ketone and acetone was added and allowed to keep for 14 hours for crystallization at 0-5° C., finally 30 ml cold water with a small amount of seeding was added for complete crystallization. The solid was filtered and washed with 10 ml mixture of diethyl ether and ethyl acetate to obtain pure 4-Nitrobenzyl (4R,5S,6S)-3-({(3S,5S)-5-[(dimethylamino)carbonyl]-1-[(4-nitrophenoxy)carbonxyl]pyrrolidin-3-yl}thio)-6-[(1R)-1-hydorxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0].hept-2-ene-2-carboxylate (referred as protected meropenem)

reactant | 4-nitrobenzyl (4R,5R,6S)-3-[(diphenoxyphosphoryl)oxy]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 10 gm | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H27N2O10P
reactant | 4-nitrobenzyl (2S,4S)-2-[(dimethylamino)carbonyl]-4- mercaptopyrrolidine-1-carboxylate | 6.122 gm | CN(C(=O)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C15H19N3O5S
reactant | Di-isopropylethyl amine | 9.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hept-2-ene-2-carboxylate | CC(=CCCCC)C(=O)[O-]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl acetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | Meropenem | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)N(C)C)C(=O)O)[C@@H](C)O | C17H25N3O5S
